US08119692B2
(S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hex-4-enoic acid (Intermediate B7)
To a solution of (3S,5R)-3-(4-(benzyloxy)but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (643 mg, 1.9 mmol) in 7 mL dioxane was added 7 mL aqueous 5% KOH at 25° C. After being stirred for 30 min at room temperature the reaction was quenched by the addition of 10 mL of 1M aqueous HCl. The mixture was extracted ethyl acetate (2×50 mL) and the combined organic layers were washed with brine (2×30 mL). The solution was dried over Na2SO4 before being concentrated under reduced pressure. The crude product was used directly in the next reaction without further purification.

reactant | (3S,5R)-3-(4-(benzyloxy)but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 1.9 mmol, 643 mg | C(C1=CC=CC=C1)OCC=CC[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C21H21FO3
reactant | KOH | [OH-].[K+]
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | (S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hex-4-enoic acid | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)O)C[C@@H](O)C1=CC=C(C=C1)F | C21H23FO4
